US05770380
Methyl 3-nitro-5-aminomethybenzoate (HMY2220).
A mixture of 3-methoxycabonyl-5-nitrobenzamide (1120 mg, 5 mmol) and 1M BH3 in THF (11.5 mL) was refluxed for 90 minutes. For a detailed description of techniques for borane reduction, see Brown, H. C.; Heim, P. J. Org. Chem. 1973, 38, 912-916. The solvent was evaporated and MeOH (15 mL) was added. HCl gas was introduced into the solution and the reaction mixture was refluxed for 70 minutes. The mixture was added saturated NaHCO3 aq. (50 mL) and extracted with CH2Cl2 (5×40 mL). The organic layers were combined, washed with brine and dried over Na2SO4. The dried solution was applied directly to SiO2 column and developed with AcOEt then 1/10=MeOH/AcOEt. The elution was evaporated to give the desired product (361 mg, 34%): 1H NMR (300 MHz, CDCl3) δ 8.696 (s, 1H), 8.403 (s, 1H), 8.320 (s, 1H), 4.051 (s, 2H), 3.961 (s, 3H); 13C NMR (300 MHz, CDCl3) δ 165.0, 148.3, 145.9, 133.7, 131.7, 125.8, 122.8, 52.7, 45.2; HRMS m/e calc'd for C9H10 N2O4 : 209.0562, found 209.0565.

reactant | 3-methoxycabonyl-5-nitrobenzamide | 5 mmol, 1120 mg | COC(=O)C=1C=C(C(=O)N)C=C(C1)[N+](=O)[O-] | C9H8N2O5
reactant | borane | B | BH3
solvent | THF | 11.5 mL | C1CCOC1 | C4H8O
product | Methyl 3-nitro-5-aminomethybenzoate | 361 mg, 34% | [N+](=O)([O-])C=1C=C(C(=O)OC)C=C(C1)CN | C9H10N2O4
